US05352793
Methyl 1-benzoyl-1,4,5,6-tetrahydro-3-pyridyl ketone was prepared from 3-acetyl-1,4,5,6-tetrahydropyridine and benzoyl chloride according to the procedure of Part b) of Example 1. The product was recrystallised from ethanol/water m.pt. 93°-95° C.

reactant | 3-acetyl-1,4,5,6-tetrahydropyridine | C(C)(=O)C1=CNCCC1 | C7H11NO
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | Methyl 1-benzoyl-1,4,5,6-tetrahydro-3-pyridyl ketone | C(C1=CC=CC=C1)(=O)N1C=C(CCC1)C(=O)C | C14H15NO2
